Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
obstruction at ostomy
 
Major Surgical or Invasive Procedure:
Laparoscopic converted to open revision of colostomy, 
mobilization of splenic flexure, placement of Prevena VAC

 
History of Present Illness:
This is a ___ man who 6 weeks prior,
underwent a robotic APR for anal cancer.  He presented with a
large bowel obstruction from a strictured anastomosis, 
complaining of Abd
pain, N/V. The patient has had 3 days of decreased ostomy
output. He also complains of nausea and vomiting. He was
transferred from ___. There is no fever
or chills. Attempt was made to see if we can access his 
colostomy and
dilate it a little bit, but it was not possible to do. 
Therefore, the decision was to proceed to an operating room. 

 
Past Medical History:
Otherwise, healthy.
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended distended, tender to palpation. Ostomy 
in
place - edematous but pink and viable with red rubber in os,
bilious liquid drainage in ostomy bag. 
Ext: WWP
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND:
[ ] foley ___________
[x] ostomy ___________
[ ] surgical drain ___________
[ ] prevena ___________

 
Pertinent Results:
___ 04:05PM URINE  HOURS-RANDOM
___ 04:05PM URINE  UHOLD-HOLD
___ 04:05PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 04:05PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:05PM URINE  MUCOUS-OCC*
___ 02:10PM   estGFR-Using this
___ 02:10PM   LIPASE-122*
___ 02:10PM   ALBUMIN-3.4*
___ 02:10PM   WBC-7.4 RBC-3.67* HGB-11.2* HCT-34.1* MCV-93 
MCH-30.5 MCHC-32.8 RDW-12.4 RDWSD-42.2
___ 02:10PM   NEUTS-69.0 ___ MONOS-7.7 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-5.13 AbsLymp-1.65 AbsMono-0.57 
AbsEos-0.02* AbsBaso-0.03
___ 02:10PM   PLT COUNT-444*
___ 02:10PM   ___ PTT-32.4 ___
 
Brief Hospital Course:
Mr ___ presented to the emergency department on ___ and 
was found to have a bowel obstruction at his ostomy site. He was 
taken to the operating room on ___ for a laparoscopic 
ileostomy revision that was converted to an open procedure 
intraoperatively. He tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on oxycodone. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored

GU: The patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.

ID: The patient was closely monitored for signs and symptoms of 
infection and fever. He was on IV antibiotics while in the 
hospital prophylactically but showed no sign of infection. 

Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, he/she was encouraged to get up and ambulate 
as early as possible. The patient is being discharged on a 
prophylactic dose of Lovenox. 

On ___, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus,  voiding, and 
ambulating independently. He will follow-up in the clinic in ___ 
weeks. This information was communicated to the patient directly 
prior to discharge.

Post-Surgical Complications During Inpatient Admission:
[x] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
Docusate Sodium 100 mg PO/NG TID 
OxyCODONE (Immediate Release) 5 mg PO/NG Q6H:PRN Pain - Moderate 
Phenazopyridine 100 mg PO TID Duration: 3 Days 
TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO TID  
3.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 1 syringe subcutaneous once a day 
Disp #*30 Syringe Refills:*0 
4.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - First Line  

5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
6.  Phenazopyridine 100 mg PO TID Duration: 3 Days  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Stomal stricture and stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital after an open revision of your 
colostomy. You have recovered from this procedure well and you 
are now ready to return home. Samples of tissue were taken and 
has been sent to the pathology department. You will receive 
these pathology results at your follow-up appointment. If there 
is an urgent need for the surgeon to contact you regarding these 
results they will contact you before this time. 

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation. Please take an over the counter stool 
softener such as Colace, and if the symptoms do not improve call 
the office.

If you have any of the following symptoms please call the office 
at ___:

fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

Incisions:

You have a long vertical surgical incisions on your abdomen. It 
is important that you monitor these areas for signs and symptoms 
of infection including: increasing redness of the incision 
lines, white/green/yellow/malodorous drainage, increased pain at 
the incision, increased warmth of the skin at the incision, or 
swelling of the area.

You may shower; pat the incisions dry with a towel, do not rub.  
If you have steri-strips (the small white strips), they will 
fall off over time, please do not remove them. Please do not 
take a bath or swim until cleared by the surgical team.

Pain

It is expected that you will have pain after surgery, this will 
gradually improve over the first week or so you are home.  You 
should continue to take 2 Extra Strength Tylenol (___) for 
pain every 8 hours around the clock. Please do not take more 
than 3000mg of Tylenol in 24 hours or any other medications that 
contain Tylenol such as cold medication. Do not drink alcohol 
while taking Tylenol.  You may also take Advil (Ibuprofen) 600mg 
every 8 hours for 7 days, please take Advil with food. If these 
medications are not controlling your pain to a point where you 
can ambulate and perform minor tasks, you should take a dose of 
the narcotic pain medication oxycodone.  Please do not take 
sedating medications or drink alcohol while taking the narcotic 
pain medication. Do not drive while taking narcotic medications.

Activity

You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs, 
and go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.  
Again, please do not drive while taking narcotic pain 
medications. 

You will be discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this for 30 days after 
your surgery date, please finish the entire prescription. This 
will be given once daily. Please follow all nursing teaching 
instruction given by the nursing staff. Please monitor for any 
signs of bleeding: fast heart rate, bloody bowel movements, 
abdominal pain, bruising, feeling faint or weak. If you have any 
of these symptoms please call our office or seek medical 
attention. Avoid any contact activity while taking Lovenox. 
Please take extra caution to avoid falling.

Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___